### PR TITLE
Chapter 2 complete

### PR DESCRIPTION
**Pull request by dominicking7**
Chapter 2 content available for feedback, note some slight issues that we are already aware of: 

We have issues with imported defs/theorems from other sheets within our chapter, which begin at Sheet 2 and persist through Sheet 3, where you can see the top comment at the page describing issues with 
`import «AlgebraInLean».Chapter2.Sheet1`. Beyond that, there are some syntactic issues with use of `cases'` instead of the long use with `cases n with | => ...`, so feedback on that would be helpful as well. 

Some proofs rely on `op_inv`, which is not in this particular rebased version, but will (apparently) already be described in Chapter 1, so that should resolve build issues with the sheets that use `op_inv` for theorem solutions. 

Note that `ModularArithmetic.lean` is an interlude in modular arithmetic in lean that the user can skip depending on their familiarity with the area. Such a skip is documented as a potential option at the end of Sheet 1.

### CODE REVIEW

**Comment by MAO3J1m0Op** [comment]
Y'all would make me a very happy man if you rebased your branch onto `master` so I can review the PR without changing Lean versions :)

**Comment by Stavan-Jain** [comment]
There are some redundancies in the theorems. For example, the theorem stating that the composition of surjective functions is surjective is repeated three times I believe (twice in Sheet 0 and once in sheet 1). Could you go through your code and remove redundancies like these?

**Comment by 4rim** [comment]
> Y'all would make me a very happy man if you rebased your branch onto master so I can review the PR without changing Lean versions :)

noted! will do this ASAP.

> There are some redundancies in the theorems. For example, the theorem stating that the composition of surjective functions is surjective is repeated three times I believe (twice in Sheet 0 and once in sheet 1). Could you go through your code and remove redundancies like these?

i can't speak to the repetition within Sheet 0, but i will mention that we have multiple proofs or instances of the same theorem because we wanted to have more than one sample solution. i will take a second look at all of the sheets soon and note where we want multiple solutions versus those that are simply redundant. would this be fine?

EDIT: i also wanted to mention our progress with the blueprint. i'd say we are about a third of the way done and that we should be done within the next two days, hopefully by tomorrow. it seems that some definitions/theorems were meant to be defined in World 1; once World 1 is finalised, we will be able to finish the blueprint within the same day.

**Comment by dominicking7** [comment]
Note that import issues mentioned above are still persisting, Stavan is working on them (? 🙏)

File: AlgebraInLean/Chapter2/ModularArithmetic.lean [hunk 1]
```diff
@@ -0,0 +1,146 @@
+-- ## Modular arithmetic interlude
+
+/-
+
+Disclaimer: This sheet covers basic concepts of modular arithmetic at a
+high-level, introducing already-existing mechanisms in Lean, and does not
+require you to write any proofs.
+
+-/
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/ModularArithmetic.lean]: Make sure comments are wrapped to 100 characters.

File: AlgebraInLean/Chapter2/ModularArithmetic.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+number and 0 is the number itself.
+
+-/
+#check Nat.gcd
+
+-- The command `#print` is useful to see what is going on beneath the hood
+
+#print Nat.gcd
+
+#eval gcd 1 2
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/ModularArithmetic.lean]: Typo: you wrote 9 instead of 0. Also, you should surround `lcm` in backticks.

File: AlgebraInLean/Chapter2/ModularArithmetic.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+-/
+#check lcm
+#print lcm
+
+#eval lcm 1 2
+#eval lcm 100 45
+#eval lcm 73 0
+
+variable (n : Nat)
+
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/ModularArithmetic.lean]: Again, "lcm" and "gcd" should be surrounded by backticks.

File: AlgebraInLean/Chapter2/ModularArithmetic.lean [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+#check (gcd_zero_right n : gcd n 0 = n)
+#check (gcd_zero_left n : gcd 0 n = n)
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/ModularArithmetic.lean]: Using both "mundane" and "boring" is redundant.

File: AlgebraInLean/Chapter2/ModularArithmetic.lean [hunk 5]
```diff
@@ -0,0 +1,146 @@
...
+brute-force method) for finding the gcd, relying on a recursive definition of
+the gcd function.
+
+Simply, gcd(a, b) equals gcd(b, a mod b). The termination step (or in more
+computer science-y terms, the "base case") of the Euclidean algorithm is gcd(n,
+0) = 0; in other words, when b = 0.
+
+Here's our homemade, and of course, recursive version of the gcd function. Note
+how it reflects the inductive definition of the natural numbers, which you have
+seen hinted at in the NNG (all natural numbers are either 0, or a successor to a
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/ModularArithmetic.lean]: You use built-in `gcd` instead of `gcd'`: probably a typo.

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 6]
```diff
@@ -0,0 +1,199 @@
+import Mathlib.Tactic
+/-
+
+Let's take a brief break from Algebra to orient ourselves.
+We are going to explore injectivity and surjectivity of functions.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: With the modular arithmetic sheet, this comment doesn't really make sense. The user just took a break from algebra to do a modular arithmetic interlude.

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 7]
```diff
@@ -0,0 +1,199 @@
...
+
+Let's start with some basic definitions (you have likely
+seen some of these already!)
+
+-/
+
+namespace Defs
+
+namespace Interlude
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: I think the convention we've adopted is to not indent namespaces.

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 8]
```diff
@@ -0,0 +1,199 @@
...
+
+    /-
+
+    Brace yourself for a type theory interlude! In Lean's type theory, the Calculus of
+    Constructions, there is an infinite hierarchy of types that contain one another. Type 0 (or
+    simply just "Type" is contained in Type 1, Type 1 is contained in Type 2, and so on. A type can
+    never contain itself; if that were to happen, we would run into a logical paradox! We classify
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: The logical paradox you mention is Russell's Paradox. Perhaps name it as such?

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 9]
```diff
@@ -0,0 +1,199 @@
...
+    Now let's take a look at some basic problems about bijective maps that will test all of the
+    tactics you have learned thus far.
+
+    -/
+
+    /-- A map is bijective if and only if it is injective and surjective. -/
+    example {α β : Type} (f : α → β) (h1 : Injective f) (h2 : Surjective f) : Bijective f :=
+      ⟨h1, h2⟩
+
+    -- Surjectivity composition
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: You should convert these to docstrings.

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 10]
```diff
@@ -0,0 +1,199 @@
...
+    Injective (g ∘ f) := by
+      intros a1 a2 h
+      apply h1
+      apply h2
+      exact h
+      done
+
+    /-
+
+    Working backwards
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: What's the "Working backwards" line for?

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 11]
```diff
@@ -0,0 +1,199 @@
...
+    example (f : X → Y) (g : Y → Z) : Surjective (g ∘ f) → Surjective g := by
+      intros h z
+      rcases h z with ⟨x, rfl⟩
+      use f x
+      rfl
+      done
+
+    /-
+
+    Corrollary: bijectivity composition
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: Typo: it's corollary

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 12]
```diff
@@ -0,0 +1,199 @@
...
+      specialize h2 z
+      obtain ⟨y, hy⟩ := h2
+      obtain ⟨x, hx⟩ := h1 y
+      use x
+      rw [← hy, ← hx]
+      rfl
+
+    /-
+
+    You may want to read up more about `Add.intro` that works to split a logical `∧`
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: Typo: it's `And.intro`

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 13]
```diff
@@ -0,0 +1,199 @@
...
+        · apply hf
+        · apply hg
+      done
+
+
+    /-
+
+    In the same spirit, let's turn that bijective composition proof into a theorem,
+    but now it is your turn to do that. This may help you further understand how
+    L∃∀N categorizes its different types
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: lol

File: AlgebraInLean/Chapter2/Sheet0.lean [hunk 14]
```diff
@@ -0,0 +1,199 @@
...
+      · apply surjective_comp
+        · apply hf
+        · apply hg
+      done
+
+  /-
+
+  You just proved lots about two injective maps `f, g` and the composition of those maps `g ∘ f`.
+  Nice to see all those classic L∃∀N tactics again, right? Make sure you are fully comfortable with
+  the tactics `intros, apply, exact, rw, cases, specialize`. See `Chapter 0` for a refresher. These
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet0.lean]: I think you should separate each tactic into its own backticks, i.e.

```
`intros`, `apply`, `exact`, `rw`, `cases`, `specialize`
```

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 15]
```diff
@@ -0,0 +1,227 @@
...
+import AlgebraInLean.Basic
+import Mathlib.Tactic
+
+namespace Defs
+
+  /-
+
+  # Morphisms
+
+  Morphisms are structure-preserving maps between objects in a category.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: Good explanation, but you're gonna scare people if you use the word "category" without defining it.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 16]
```diff
@@ -0,0 +1,227 @@
...
+    goal.
+
+    `calc` might be more familiar than you think, since it closely reflects
+    some pen-and-paper proofs via a chain of equalities and algebraic
+    manipulations. Hover over `calc` to see the syntax.
+
+    -/
+
+    /- For all g ∈ G, (g⁻¹)⁻¹ = g -/
+    theorem inv_inv_eq_self [Group G] : ∀ g : G, ι (ι g) = g := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: So...`mul_left_eq` and `inv_inv_eq_self` are both in chapter 1 now. I'm not sure what should be done about this, but it's a big continuity error to leave it as is. There are different ways to resolve this, and I'm not sure which one is correct: talk to the chapter 1 guys to sort this out. Either:

* Delete this explanation (not advised; your `calc` block explanation is excellent)
* Move this to chapter 1 and replace what's there already
* Keep both, and rewrite the comments to recognize that this is revisits exercises already proven.
* I dunno, something else I didn't think of?

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 17]
```diff
@@ -0,0 +1,227 @@
...
+        rw [inv_inv_eq_self x]
+      intro a b hab
+      rw [← hinv a, ← hinv b, hab]
+
+    /-
+
+    `unfold` does what it sounds like: unfolding a symbol to its
+    underlying definition. It isn't best practice; it's usually better to
+    write a definition to use `rw` with. However, for a one-off use-case,
+    `unfold` suffices.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: As someone who abuses unfold, this made me sad.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 18]
```diff
@@ -0,0 +1,227 @@
...
+
+    -/
+
+    -- An injective and surjective function is bijective
+    example (f : α → β) (h1 : Injective f) (h2 : Surjective f)
+    : (Bijective f) := by
+      rw [Bijective]
+      constructor
+      · assumption -- or `exact h1`
+      · assumption -- or `exact h2`
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: Ooh this is a good opportunity to introduce the `<;>` symbol!

You can rewrite this proof as

```
constructor <;> assumption
```

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 19]
```diff
@@ -0,0 +1,227 @@
...
+
+    -- This proof is a bit more involved, so there will be additional commentary in the solutions
+
+    -- The composition of surjective functions is surjective
+    example (f : α → β) (g : β → γ) (h1: Surjective f) (h2 : Surjective g)
+    : Surjective (g ∘ f) := by
+      rw [Surjective] at *
+      /- The asterisk represents a 'wildcard', more technically known as a Kleene star. `at *`
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: Reformat these comments so that the markers are on their own lines.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 20]
```diff
@@ -0,0 +1,227 @@
...
+      obtain ⟨x, hx⟩ := hx
+      obtain ⟨a, hfa⟩ := h1 x
+      use a
+      change g (f a) = y
+      /- `change` allows us to zhuzh the goal into something _definitionally equivalent_, which can
+      make it more convenient to apply hypotheses -/
+      rw [hfa]
+      exact hx
+
+    /-
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: Add another `-` to make this a docstring.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 21]
```diff
@@ -0,0 +1,227 @@
...
+    to H which "preserves", or "respects" the group structure. That is, given an element g ∈ G and h
+    ∈ H,
+
+    φ(gh) = φ(g)φ(h).
+
+    In other words, you can combine g and h in G, and then apply φ, or apply φ to g and h each,
+    before combining them in H. We omit the symbol for the group operator for the sake of
+    simplicity.
+
+    An isomorphism has a slightly stricter definition in that φ is required to be a bijection. When
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: I'd delete "slightly", arguably this is a much stricter definition.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 22]
```diff
@@ -0,0 +1,227 @@
...
+    two groups are isomorphic to each other, they are indistinguishable from each other by structure
+    alone. This is often expressed via the phrase "equal up to isomorphism". We'll talk more about
+    isomorphisms in the next sheet!
+
+    -/
+    def Homomorphism [Group G] [Group H] (φ : G → H) : Prop := ∀ a b : G, μ (φ
+    a) (φ b) = φ (μ a b)
+
+    theorem homomorphism_def [Group G] [Group H] (φ : G → H) : Homomorphism φ ↔ ∀
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: Per naming conventions of Mathlib, the h of "homomorphism" here should be capitalized.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 23]
```diff
@@ -0,0 +1,227 @@
...
+    (a b : G), μ (φ a) (φ b) = φ (μ a b) := by rfl
+
+    def Isomorphism [Group G] [Group H] (φ : G → H) : Prop := (Homomorphism φ ∧
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: The wrapping here is not correct. The best thing to do is take everything after the `:=` to its own line.

File: AlgebraInLean/Chapter2/Sheet1.lean [hunk 24]
```diff
@@ -0,0 +1,227 @@
...
+
+end Defs
+
+/-
+
+You have two options on where to go next. If you're familiar with basic
+modular arithmetic (including gcds, lcms, and the Euclidean algorithm), you
+can go straight to Sheet2. If you would like a refresher, or simply to see
+how these concepts are implemented in Lean, feel free to go to the sheet
+named `ModularArithmetic.lean`.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet1.lean]: I visited `ModularArithmetic.lean` first, because it appeared first in the alphabetic list. You should rename the sheet so that alphabetic order coincides with the order in which the sheets should be visited.

File: AlgebraInLean/Chapter2/Sheet2.lean [hunk 25]
```diff
@@ -0,0 +1,133 @@
...
+
+/-
+
+## Isomorphisms
+
+In Mathlib, isomorphisms come with additional structure; they are not simply defined as bijective
+homomorphisms.
+
+They are defined as a structure, bundled up with some useful fields:
+- to_fun (a map from a group G → group H)
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet2.lean]: Perhaps surround the names with backticks?

File: AlgebraInLean/Chapter2/Sheet2.lean [hunk 26]
```diff
@@ -0,0 +1,133 @@
...
+additive group of integers to itself is clearly an isomorphism. In fact, as you might've guessed,
+this holds for any arbitrary group.
+
+-/
+
+-- Example, not exercise
+-- The identity map is an isomorphism
+example (φ : ℤ → ℤ) (h1 : ∀ x, φ x = x) : ℤ ≃+ ℤ := by
+  let hom_map : ℤ ≃ ℤ := by
+  { constructor
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet2.lean]: 1. The braces look weird.
2. Use the `change` tactic instead of `have`...`exact`. It looks more elegant and is an opportunity to reinforce concepts introduced earlier in the chapter.

File: AlgebraInLean/Chapter2/Sheet2.lean [hunk 27]
```diff
@@ -0,0 +1,133 @@
...
+  intro x y
+  have hc : hom_map.toFun = φ := by rfl
+  rw [hc]
+  simp [h1]
+  linarith
+
+/- Consider the bijection ℤ → ℤ that maps x to x + 1. Is this an isomorphism? Where does the proof
+break? -/
+example (φ : ℤ → ℤ) (h1 : ∀ x, φ x = x + 1) : ℤ ≃+ ℤ := by
+  let hom_map : ℤ ≃ ℤ := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet2.lean]: So the issue with this is that the proof always will break, therefore the `sorry` will always be there. This isn't ideal, as we have the vision of not having any `sorry`s in our (unbuilt) project. Perhaps change it to a counterexample?

Another option, if it exists, is to somehow mess with the `set_option` to allow the one specific `sorry`?

File: AlgebraInLean/Chapter2/Sheet3.lean [hunk 28]
```diff
@@ -0,0 +1,232 @@
...
+import Mathlib.Tactic
+
+namespace Defs
+
+namespace Morphisms
+
+namespace Sheet3
+
+-- Injectivity, Surjectivity, Bijectivity
+  def Injective (f : α → β) : Prop := ∀ (x y : α), f x = f y → x = y
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet3.lean]: You might want to pivot to using Mathlib's definitions: `Function.Injective`, etc. after they're introduced and discussed in Sheet 0.

File: AlgebraInLean/Chapter2/Sheet3.lean [hunk 29]
```diff
@@ -0,0 +1,232 @@
...
+  section Automorphisms
+
+    /-
+
+    An automorphism is defined to be an endomorphism that is also a bijection.
+    You will recognize the following definition is similar to how we defined
+    bijectivity in the first place.
+
+    -/
+    def Automorphism [Group G] (φ : G → G) : Prop := Endomorphism φ ∧ Bijective φ
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet3.lean]: You should add a tiny theorem wherein you show that `Automorphism`s are `Isomorphism`s.

File: AlgebraInLean/Chapter2/Sheet3.lean [hunk 30]
```diff
@@ -0,0 +1,232 @@
...
+
+    -- A brief definition of our φ:
+    def φ (x : ℤ) : ℤ := -x
+    -- φ : G → G, x ↦ -x
+
+    -- Show that φ is a group automorphism
+    theorem φ_automorphism : ∀ x y : ℤ, φ (x + y) = φ x + φ y ∧ Bijective φ := by
+      intros x y
+      constructor
+      -- Prove homomorphism
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet3.lean]: Reformat this proof: add space after `rw` and whatnot.

File: AlgebraInLean/Chapter2/Sheet3.lean [hunk 31]
```diff
@@ -0,0 +1,232 @@
...
+    matrix D such that B = DAD⁻¹).
+
+    We claim that conjugation is an automorphism under an arbitrary group and
+    group operation, meaning:
+    ψ : G → G, x ↦ gxg⁻¹ is a group automorphism. Let's prove this!
+
+    As with before, a brief definition of our ψ:
+
+    -/
+    def ψ [Group G] (g x : G) : G := μ (μ g x) (ι g)
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet3.lean]: Rename psi to `conjugate`, and then I can change Chapter 3 to use that definition of `conjugate` instead of redefining it myself.

File: AlgebraInLean/Chapter2/Sheet3.lean [hunk 32]
```diff
@@ -0,0 +1,232 @@
...
+
+    /-
+    This definition, because it is under an arbitrary group action, has to conform
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter2/Sheet3.lean]: You can't use the term "group action" before defining it.

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]
Content-wise, this is excellent. I do have some nitpicks.

**Comment by 4rim** [comment]
> Content-wise, this is excellent. I do have some nitpicks.

thanks Will for literally burning the midnight oil on this! we'll resolve the biggest issue (i think the redundant theorems) today as well as the formatting and wording. we'll also hopefully have the blueprint done. good catch on the modarith sheet inadvertently being read first due to the lexicographic ordering. thanks again

File: AlgebraInLean/Chapter2/Sheet1.lean (hunk 17 above)
Comment (4rim) [reply AlgebraInLean/Chapter2/Sheet1.lean]: Believe me, as a huge fan of unfold, it was very painful to besmirch its good name like this. Blame Stavan for spreading anti-unfold propaganda (jk)

File: AlgebraInLean/Chapter2/Sheet1.lean (hunk 16 above)
Comment (4rim) [reply AlgebraInLean/Chapter2/Sheet1.lean]: Replying for reference. For now, we are going with the third option, though I'll have to bring this up to the Ch1 team during today's meeting

File: AlgebraInLean/Chapter2/Sheet3.lean (hunk 28 above)
Comment (dominicking7) [reply AlgebraInLean/Chapter2/Sheet3.lean]: I believe I was told before starting this Interlude sheet that the goal was to stick with our 'proprietary' definitions of injectivity, subjectivity, etc. but we can discuss if people have been doing otherwise?

File: AlgebraInLean/Chapter2/Sheet3.lean (hunk 31 above)
Comment (dominicking7) [reply AlgebraInLean/Chapter2/Sheet3.lean]: Good idea -- done.

**Comment by dominicking7** [comment]
> Note that import issues mentioned above are still persisting, Stavan is working on them (? 🙏)

Replying here for reference: will fix import issues (being caused by namespace issues) once Ch1 is merged since namespaces need to be changed around anyways.

**Comment by Stavan-Jain** [comment]
@4rim @dominicking7, is the blueprint ready to be merged into this branch? I would like to take a look at it if it is indeed ready :)

**Comment by 4rim** [comment]
> @4rim @dominicking7, is the blueprint ready to be merged into this branch? I would like to take a look at it if it is indeed ready :)

It isn't ready yet, I'll have to make some adjustments based on recent feedback. But it will be done soon, and we'll let you know when!

File: AlgebraInLean/Chapter02/Sheet00.lean [hunk 33]
```diff
@@ -0,0 +1,218 @@
...
+  · apply surjective_comp
+    · apply hf
+    · apply hg
+  -- END SAMPLE SOLUTION
+  done
+
+
+/-
+
+You just proved lots about two injective maps `f, g` and the composition of those maps `g ∘ f`.
```
Comment (Anoushka1406) [inline AlgebraInLean/Chapter02/Sheet00.lean]: f and g werent always surjective. Also before this point I liked ricardos edits but I do like the friendly tone after this point lol.

File: AlgebraInLean/Chapter02/Sheet01.lean [hunk 34]
```diff
@@ -0,0 +1,254 @@
...
+hypotheses. With forward reasoning, we are trying to transform our assumptions into the goal.
+
+`calc` might be more easier to work with than you think, since it closely reflects some
+pen-and-paper proofs via a chain of equalities and algebraic manipulations. Hover over `calc` to see
+the syntax. Don't let it scare you!
+
+-/
+
+/- For all g ∈ G, (g⁻¹)⁻¹ = g -/
+theorem inv_inv_eq_self : ∀ g : G, ι (ι g) = g := by
```
Comment (Anoushka1406) [inline AlgebraInLean/Chapter02/Sheet01.lean]: we already have this?

File: AlgebraInLean/Chapter02/Sheet01.lean [hunk 35]
```diff
@@ -0,0 +1,254 @@
...
+
+/-
+
+# Morphisms
+
+Morphisms are structure-preserving maps between objects in a category. Think of a category as a
+bucket filled with a certain mathematical object (i.e. groups, vector spaces, sets) and their
+corresponding morphisms (group homomorphisms, linear transformations, and functions respectively).
+
+In category theory---which is surprisingly the study of categories---morphisms serve as "arrows"
```
Comment (Anoushka1406) [inline AlgebraInLean/Chapter02/Sheet01.lean]: remove the surprisingly a study of categories

File: AlgebraInLean/Chapter02/Sheet03.lean [hunk 36]
```diff
@@ -0,0 +1,138 @@
...
+  have hc : hom_map.toFun = φ := by rfl
+  rw [hc]
+  simp [h1]
+  linarith
+-- END SAMPLE SOLUTION
+
+/-
+
+Consider the bijection ℤ → ℤ that maps x to x + 1. Is this an isomorphism? Where does the proof
+break?
```
Comment (Anoushka1406) [inline AlgebraInLean/Chapter02/Sheet03.lean:82]: try negating the hypothesis

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 37]
```diff
@@ -0,0 +1,199 @@
...
+Specifically, fix G = ⟨ℤ, +⟩, and φ : G → G, x ↦ -x (the function fx = -x).
+
+Note that in order to prove this, we do not necessarily need to "prove" that our φ is an
+endomorphism. We are already defining it as the map φ : G → G (a group onto itself), so it
+suffices to prove that φ is a homomorphism. That may be useful going forward with this proof.
+
+-/
+
+/- A brief definition of our φ: -/
+def φ (x : ℤ) : ℤ := -x
```
Comment (Anoushka1406) [inline AlgebraInLean/Chapter02/Sheet04.lean]: change the name of this phi

Comment (Anoushka1406) [reply AlgebraInLean/Chapter02/Sheet04.lean]: everywhere

**Review by Anoushka1406 — APPROVED** [review]

File: AlgebraInLean/Chapter02/Sheet03.lean (hunk 36 above)
Comment (dominicking7) [reply AlgebraInLean/Chapter02/Sheet03.lean:82]: Negated proof is too weird. Talk to Ricardo if questions

**Review by Anoushka1406 — APPROVED** [review]
Lgtm

**Comment by dominicking7** [comment]
Chapter 2 (including blueprint) fully ready for merge with Master -- this branch includes Chapters 0, 1, 2 and associated blueprints.

File: AlgebraInLean/Chapter02/Sheet04.lean [hunk 38]
```diff
@@ -0,0 +1,196 @@
...
+
+You can think of it like a permutation from a group to itself, although it is important that
+this permutation respects the group structure. see more specifically what "respecting the group
+structure" looks like in the next chapter (keep an eye out for orders!).
+
+-/
+
+/- You may be able to intuitively discern that all automorphisms are also isomoprhisms.
+Lets do a brief exercise to prove this before jumping into some more complex examples. -/
+theorem aut_isomoprhism (φ : G → G) (h : Automorphism φ) : Isomorphism φ := by
```
Comment (Stavan-Jain) [inline AlgebraInLean/Chapter02/Sheet04.lean]: Typo in `isomorphism`

**Review by Stavan-Jain — APPROVED** [review]
lgtm

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]
We're ready to go. I added some small changes and merged `master` into this branch to make sure `leanblueprint` builds as intended.

**Review by MAO3J1m0Op — APPROVED** [review]
We're ready to go. I added some small changes and merged `master` into this branch to make sure`leanblueprint` builds as intended.
